US04877795
To a solution of 413 mg of 2-pyridylacetic acid hydrochloride, 470 mg of dibenzylamine and 321 mg of 1-hydroxybenzotriazole in 5 ml of dry pyridine was added 637 mg of 1,3-dicyclohexylcarbodiimide, and the mixture was stirred for 15 hours at room temperature. Precipitates were filtered off, the filtrate was concentrated under reduced pressure. The residue was dissolved in a 1N-hydrochloric acid and washed twice with 25 ml of diethyl ether, and then a 2N-aqueous hydroxide was added to the solution to a pH of 11. A separated oil was extracted with 50 ml of dichloromethane, and the organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give 486 mg of N,N-dibenzyl-2-pyridylacetamide as an oil.

reactant | 2-pyridylacetic acid hydrochloride | 413 mg | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | dibenzylamine | 470 mg | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 1-hydroxybenzotriazole | 321 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 637 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N,N-dibenzyl-2-pyridylacetamide | 486 mg | C(C1=CC=CC=C1)N(C(CC1=NC=CC=C1)=O)CC1=CC=CC=C1 | C21H20N2O
